US08084483B2
Aqueous lithium hydroxide solution (1M, 437 μL, 0.437 mmol, 3 eq.) was added to a solution of ethyl 3-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)propanoate (65 mg, 0.146 mmol) in THF (1.5 mL) and methanol (1 mL). The mixture was stirred at room temperature for ˜2 hours, and HCl (1N, 584 μL, 0.584 mmol, 4 eq.) added. The mixture was concentrated, a little water added, sonicated and the off-white solids isolated by filtration. The isolated material was placed into small amount of methanol, sonicated again, and then filtered to give 5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazole-3-thiol as an off-white solid (39 mg, 78%).

reactant | lithium hydroxide | 0.437 mmol, 1M, 437 μL, 3 eq. | [OH-].[Li+]
reactant | ethyl 3-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)propanoate | 0.146 mmol, 65 mg | BrC=1N(C(=NN1)SCCC(=O)OCC)C1=CC=C(C2=CC=CC=C12)C1CC1 | C20H20BrN3O2S
reactant | HCl | 0.584 mmol, 1N, 584 μL, 4 eq. | Cl | ClH
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazole-3-thiol | 39 mg, 78% | BrC=1N(C(=NN1)S)C1=CC=C(C2=CC=CC=C12)C1CC1 | C15H12BrN3S
